2201-02-07 07:36:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 EKG - At [**2201-2-6**] 08:50 AM
   ekg done for onset of wide complex qrs rate 80's. saw pacer spikes.
   bp stable in this ssetting
 BRONCHOSCOPY - At [**2201-2-6**] 12:45 PM
 MULTI LUMEN - START [**2201-2-6**] 03:45 PM
 MULTI LUMEN - STOP [**2201-2-6**] 08:00 PM
 ARTERIAL LINE - STOP [**2201-2-7**] 01:00 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2201-2-7**] 03:10 AM
 FEVER - 101.3
F - [**2201-2-6**] 08:00 PM
   -OSH blood culture with group B beta strep in [**3-28**] bottles sensitive to
   everything (including PCN) but tetracycline.
   -BAL showed clean lungs
   -OSH: dual chamber med tronic pacer for 3rd degree AV block after AV
   replacement and aortic root homograft complicated by abscess
   -R IJ placed- ([**Female First Name (un) 4079**] first :0). Fem line, A line from OSH d/c'd. Fem
   line tip sent for culture
   - TF ordered per nutrition recs
   - podiatry consulted- debrided and sent wound culture, ordered
   multipodus boots. Ordered L foot films
   -checked am cortisol 28.5
   -cards rec: stop amio, device working well
   - plan for TEE on Tues.
   -CE flat during day
   -TTE LVEF>55%. Nothing else pertinent
   - levo gtt on for whole day. Went from .1-.08 during the day.
   - LDH elevated to 945 but Haptoglobin nl . LFTs this am all nl
   -3am- Pt self extubated and ETT replaced by anesthesia stat
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2201-2-6**] 05:00 AM
   Vancomycin - [**2201-2-6**] 08:00 PM
   Levofloxacin - [**2201-2-7**] 03:00 AM
   Metronidazole - [**2201-2-7**] 03:57 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-6**] 08:34 AM
   Fentanyl - [**2201-2-6**] 03:30 PM
   Midazolam (Versed) - [**2201-2-6**] 03:34 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain [**1-26**] pt sedation
   Flowsheet Data as of  [**2201-2-7**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 80 (74 - 100) bpm
   BP: 92/57(63) {92/52(61) - 113/67(77)} mmHg
   RR: 0 (0 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 72 Inch
    CVP: 11 (9 - 13)mmHg
   Total In:
                                                                  3,034 mL
                                                                    385 mL
   PO:
   TF:
   IVF:
                                                                  3,034 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    425 mL
   Urine:
                                                                  1,890 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    844 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/33/119/20/-5
   Ve: 14.6 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Decreased
   Labs / Radiology
   50 K/uL
   11.0 g/dL
   57 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   39 mg/dL
   112 mEq/L
   138 mEq/L
   32.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2201-2-6**]  03:55 AM
                             [**2201-2-6**]  04:00 AM
                             [**2201-2-6**]  05:00 AM
                             [**2201-2-6**]  07:00 AM
                             [**2201-2-6**]  07:51 AM
                             [**2201-2-6**]  09:00 AM
                             [**2201-2-6**]  09:11 AM
                             [**2201-2-6**]  01:50 PM
                             [**2201-2-7**]  01:08 AM
                             [**2201-2-7**]  04:41 AM
   WBC
   13.7
   Hct
   32.3
   Plt
   50
   Cr
   1.4
   1.6
   1.6
   TropT
   <0.01
   TCO2
   18
   18
   19
   Glucose
   [**Telephone/Fax (3) 4080**]
   115
   152
   57
   Other labs: PT / PTT / INR:13.1/27.0/1.1, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:91.0 %, Band:0.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, LDH:214 IU/L, Ca++:6.7 mg/dL, Mg++:2.5
   mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 .H/O CARDIAC DYSRHYTHMIA OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 .H/O DIABETIC KETOACIDOSIS (DKA)
   This is a 53 year old male with a history of type II DM, CAD s/p CABG
   who presents with sepsis.
   # Sepsis
On admission, patient met SIRS criteria with WBC, fever, HR,
   and initial PaCO2.  Likely source is pneumonia +/ skin infection +/
   c.diff colitis.  Now, blood cx + in [**3-28**] bottles for Group B strep at
   OSH.  X rays [**2-6**] of both feet without evidence of osteo. Negative for
   influenza.
   - Treat empirically for pneumonia with vanc, levoflox,
   -Curbside ID today to discuss best tx for Grp B strep bacteremia.
   - Treat empirically for c.diff colitis with flagyl
   - Check c.diff toxin
   - need to replace Arterial line for close hemodynamic monitoring
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count and fever curve.
   -On levo gtt with goal MAP >60. Check SVO2
   .
   # Respiratory failure  - Intubated for lethargy and ? acidosis.
   Reintubated after self-extubated in early am [**2-7**].
   -Wean to PS as tolerated today after A line placed.
   -pull back ETT 1-2cm today.
   # Wide complex tachycardai - Concerning for VT versus SVT with
   aberrancy.  Currently in paced rhythm at 83 BPM.  Of note QTc prolonged
   [**2-6**], will need to monitor, esp on levofloxacin. ROMI completed [**2-6**].
   -          Cardiology c/s  done [**2-6**] and Amio gtt d/c
d at their
   recommendation
   -          Continue close monitoring.
   -          Avoid BB for rate control while hypotensive on pressor
   .
   .
   # DKA - Secondary to infection.  AG now closed.  Will continue on
   insulin gtt for now given very elevated FSGs.
   - Continue insulin gtt for now- titrated PRN
   - Q2 hour FSG checks
   - Correct electrolytes
   - Change to ISS when FSG improved
   .
   # Hyponatremia - Maybe secondary to hypovolemia in the setting of
   diarrhea.  Legionella also possible.  Now resolved.
   -Will monitor
   .
   # Thrombocytopenia - Sepsis is possible etiology.  Too early to be
   HIT.  DIC labs neg [**2-6**]
   - Meds reviewed- avoid any heparin products
   - will monitor
   ICU Care
   Nutrition: TF ordered
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2201-2-6**] 02:27 AM
   Multi Lumen - [**2201-2-6**] 03:45 PM
   -Need to place OGT today
   - need to place A line today
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-02-07 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 y/o M with CAD, DM2 transferred from OSH with septic shock, wide
   complex VT, DKA, thrombocytopenia.  Infectious sources include LLL PNA
   and diabetic foot ulcer/osteo.  Growing Group B strep in blood on
   vanc/levo/flagyl.  On levophed and intubated.  S/p unremarkable bronch.
   24 Hour Events:
 BRONCHOSCOPY - At [**2201-2-6**] 12:45 PM - Unremarkable
 RIJ MULTI LUMEN - START [**2201-2-6**] 03:45 PM
 FEMORAL MULTI LUMEN - STOP [**2201-2-6**] 08:00 PM
 ARTERIAL LINE - STOP [**2201-2-7**] 01:00 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2201-2-7**] 03:10 AM -
   REINTUBATED
 FEVER - 101.3
F - [**2201-2-6**] 08:00 PM
   Blood cultures positive for group B strep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2201-2-6**] 05:00 AM
   Levofloxacin - [**2201-2-7**] 03:00 AM
   Metronidazole - [**2201-2-7**] 03:57 AM
   Vancomycin - [**2201-2-7**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2201-2-6**] 03:30 PM
   Midazolam (Versed) - [**2201-2-6**] 03:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-7**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 85 (74 - 100) bpm
   BP: 101/60(70) {89/49(59) - 101/63(70)} mmHg
   RR: 23 (0 - 29) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 72 Inch
   CVP: 11 (9 - 13)mmHg
   Total In:
                                                                  3,034 mL
                                                                    776 mL
   PO:
   TF:
   IVF:
                                                                  3,034 mL
                                                                    776 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    570 mL
   Urine:
                                                                  1,890 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    844 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 98%
   ABG: ///20/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bases, Diminished:
   Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   50 K/uL
   57 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   39 mg/dL
   112 mEq/L
   138 mEq/L
   32.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2201-2-6**]  03:55 AM
                             [**2201-2-6**]  04:00 AM
                             [**2201-2-6**]  05:00 AM
                             [**2201-2-6**]  07:00 AM
                             [**2201-2-6**]  07:51 AM
                             [**2201-2-6**]  09:00 AM
                             [**2201-2-6**]  09:11 AM
                             [**2201-2-6**]  01:50 PM
                             [**2201-2-7**]  01:08 AM
                             [**2201-2-7**]  04:41 AM
   WBC
   13.7
   Hct
   32.3
   Plt
   50
   Cr
   1.4
   1.6
   1.6
   TropT
   <0.01
   TCO2
   18
   18
   19
   Glucose
   [**Telephone/Fax (3) 4080**]
   115
   152
   57
   Other labs: PT / PTT / INR:13.1/27.0/1.1, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:91.0 %, Band:0.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, LDH:214 IU/L, Ca++:6.7 mg/dL, Mg++:2.5
   mg/dL, PO4:1.4 mg/dL
   Imaging: CXR- Cardiomegaly, LLL/RML infiltrates, L effusion, ET tube
   2cm from carina
   Microbiology: BAL unremarkable - GS no organims, Legionella negative,
   viral screen negative.
   Assessment and Plan
   This is a 53 year old male with a history of type II DM, CAD s/p CABG
   who presents with sepsis.
    # Sepsis
 Group B strep in blood culture from OSH.  Unclear source.
   ( oral source vs endocarditis)
   - Treated empirically with vanc/zosyn.  Will curbside ID regarding best
   abx choice.
   - F/U cultures
   - F/U OSH sensitivites
   - Treat empirically for c.diff colitis with flagyl and f/u antigen
   # WCT - Concerning for VT versus SVT with aberrancy.
   - S/p cards c/s
   - TEE on Tuesday for AVR replacement and bacteremia of unclear source
   # Respiratory - Intubated for lethargy and acidosis.
   - Replace A-line
   - Try on PS 12/5
   - Pull back ET tube
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-2-6**] 02:27 AM
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2201-02-09 07:14:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 FEVER - 101.3
F - [**2201-2-9**] 05:00 AM
   -spiked fever in the PM and again in the AM and had blood cultures
   drawn
   -Wound cultures from the feet are growing group B strep (causative
   organism of bacteremia)
   -Weaned to [**9-28**] with good toleration of sats and gas remained stable
   -Weaned off norepinephrine around 6:30 am
   -Placed on [**4-28**] pressure support early in the AM
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2201-2-7**] 09:00 AM
   Metronidazole - [**2201-2-8**] 04:14 AM
   Levofloxacin - [**2201-2-9**] 03:12 AM
   Penicillin G potassium - [**2201-2-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-8**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-9**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 104 (85 - 104) bpm
   BP: 106/55(66) {93/50(61) - 109/58(70)} mmHg
   RR: 20 (1 - 27) insp/min
   Heart rhythm: V Paced
   Height: 72 Inch
             Total In:
                                                                  2,319 mL
                                                                    661 mL
   PO:
             TF:
                                                                    457 mL
                                                                    285 mL
   IVF:
                                                                  1,862 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    575 mL
   Urine:
                                                                  1,495 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    824 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 67
   ABG: 7.39/40/89.[**Numeric Identifier 433**]/24/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 297
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal) systolic murmur heard best
   at the apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, bandaged around both feet
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   105 K/uL
   10.0 g/dL
   256 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.3 mEq/L
   26 mg/dL
   112 mEq/L
   141 mEq/L
   29.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2201-2-6**]  09:11 AM
                             [**2201-2-6**]  01:50 PM
                             [**2201-2-7**]  01:08 AM
                             [**2201-2-7**]  04:41 AM
                             [**2201-2-7**]  11:11 PM
                             [**2201-2-8**]  04:47 AM
                             [**2201-2-8**]  05:07 AM
                             [**2201-2-8**]  10:18 AM
                             [**2201-2-9**]  03:49 AM
                             [**2201-2-9**]  04:21 AM
   WBC
   13.7
   8.3
   8.4
   Hct
   32.3
   30.0
   29.3
   Plt
   50
   68
   105
   Cr
   1.4
   1.6
   1.6
   1.4
   1.3
   TropT
   <0.01
   TCO2
   19
   19
   20
   23
   25
   Glucose
   115
   152
   57
   251
   256
   Other labs: PT / PTT / INR:14.6/25.1/1.3, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:83.8 %, Band:0.0 %, Lymph:12.4 %, Mono:2.5 %,
   Eos:1.0 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Microbiology: Wound cultures from feet bilaterally with group B strep.
   Assessment and Plan
   53 year old male with a history of type II DM, CAD s/p CABG who
   presents with sepsis.
   # Sepsis
On admission, patient met SIRS criteria with WBC, fever, HR,
   and initial PaCO2.    Original source is unclear though the  patient
   had 4/4 bottles positive for group B strep at [**Location (un) **].  The
   significance of the of this organism also being present at the site of
   the patient
s ulcers is unclear as these were probed and do not have
   deep tracks or purulence, and this could be a skin organism.  Pneumonia
   also unlikely given negative BAL and clear CXR.  No pyuria supporting
   urinary tract infection.
   - started PCN for strep on [**2-7**] (apprec ID reccs) and d/c
d vanc
   - will continue levo (day 1 = [**2201-2-6**]) for ?CAP but d/c flagyl as c.
   diff neg
   - TEE scheduled for Tuesday to r/o endocarditis (?new murmur on [**2-8**]
   though pt does have a history of valve surgery)
   -weaned off norepinephrine
   -speak to podiatry today about need for further imaging of foot in
   context of same organism isolated as from blood and ? osteomyelitis
   # Respiratory failure  - Intubated for lethargy and ?acidosis.
   Reintubated after self-extubated in early am [**2-7**].
   - Initial acidosis possibly metabolic as little indication of primary
   pulmonary process on BAL or imaging, still given unable to rule out
   infiltrate and quite ill at presentation are completing a five day
   course of levofloxacin for CAP today.  Patient maintaining oxygenation
   and ventilation adequately on pressure support but more tachypnic after
   put on SBT.  Likely significant volume overload contributing to
   respiratory distress
   -Given marginal BP
s will attempt to diurese today with furosemide drip
   aiming for UOP to get 1-1.5 L negative today if BP will tolerate (keep
   SBP
s >60)
   -Complete five day course of levofloxacin for CAP
   -SBT this PM and attempt extubation if ABG stable
   # Wide complex rhythm
 cardiology service consulted and determined that
   patient is a sensed and V paced.  Persistent tachycardia most likely
   due to infection, intermittent fever, and some degree of continued
   intravascular fluid depletion (despite total body volume overload).
   # Diabetes
 Patient had anion gap ketoacidosis on presentation in the
   setting of sepsis.  Gap has closed.  Patient put on standing insulin
   last PM for chronic hyperglycemia.
   - continue ISS and standing insulin, follow fingersticks and titrate as
   needed
   # Thrombocytopenia
 Likely secondary to sepsis and temporally too
   early for HIT.  DIC labs neg [**2-6**] and now improving.
   -Continue to follow
   # FEN:  NPO (pulled out enteral feeding tube), hopefully can extubate
   and advance diet, if unable to wean will need new enteral tube
   # Access: R sided CVL (could potentially be pulled if extubated), PIV
   .
   # PPx:  p-boots, PPI
   .
   # Code:  full
   .
   # Dispo:  pending improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2201-2-8**] 10:40 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-2-6**] 02:27 AM
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Arterial Line - [**2201-2-7**] 07:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-02-10 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 53 year old male with a history of type II DM, CAD s/p
   CABG who presents with sepsis.
   24 Hour Events:
 PAN CULTURE - At [**2201-2-9**] 04:30 PM
   Spiked to 102 at 1600
 FEVER - 102.1
F - [**2201-2-9**] 04:00 PM
   -Weaned off norepinephrine around 6:30 am
   -Placed on [**4-28**] pressure support early in the AM
   -deferred extubation for today as seemed to be tiring on 5/0 trial.
   -started lasix gtt titrating to MAP >60, UOP 60-100cc/hr - neg about 1L
   at 10pm
   -one foot cx also growing cornybacterium in addition to group B strep.
   - NPO after midnight for TTE tomorrow
   -likely ID C/S in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2201-2-7**] 09:00 AM
   Metronidazole - [**2201-2-8**] 04:14 AM
   Levofloxacin - [**2201-2-9**] 03:12 AM
   Penicillin G potassium - [**2201-2-10**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-9**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-10**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102
   HR: 96 (94 - 118) bpm
   BP: 117/58(76) {86/44(57) - 128/76(92)} mmHg
   RR: 18 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 116.2 kg (admission): 115.4 kg
   Height: 72 Inch
    CVP: 10 (3 - 10)mmHg
   Total In:
                                                                  1,439 mL
                                                                    623 mL
   PO:
   TF:
                                                                    535 mL
                                                                    148 mL
   IVF:
                                                                    874 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    505 mL
   Urine:
                                                                  2,410 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -971 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (311 - 500) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 165
   SpO2: 97%
   ABG: 7.40/39/73.[**Numeric Identifier **]/26/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 243
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   9.7 g/dL
   76 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   116 mEq/L
   148 mEq/L
   29.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2201-2-7**]  01:08 AM
                             [**2201-2-7**]  04:41 AM
                             [**2201-2-7**]  11:11 PM
                             [**2201-2-8**]  04:47 AM
                             [**2201-2-8**]  05:07 AM
                             [**2201-2-8**]  10:18 AM
                             [**2201-2-9**]  03:49 AM
                             [**2201-2-9**]  04:21 AM
                             [**2201-2-9**]  09:00 AM
                             [**2201-2-10**]  04:30 AM
   WBC
   13.7
   8.3
   8.4
   10.7
   Hct
   32.3
   30.0
   29.3
   29.0
   Plt
   50
   68
   105
   189
   Cr
   1.6
   1.6
   1.4
   1.3
   1.4
   TCO2
   19
   20
   23
   25
   25
   Glucose
   152
   57
   251
   256
   76
   Other labs: PT / PTT / INR:15.5/25.6/1.4, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:13.8 %, Mono:3.1 %,
   Eos:1.4 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   53 year old male with a history of type II DM, CAD s/p CABG who
   presents with sepsis.
   # Sepsis:  On admission, patient met SIRS criteria with WBC, fever, HR,
   and initial PaCO2.    Original source is unclear though the  patient
   had 4/4 bottles positive for group B strep at [**Location (un) **].  The
   significance of the of this organism also being present at the site of
   the patient
s ulcers is unclear as these were probed and do not have
   deep tracks or purulence, and this could be a skin organism.  Pneumonia
   also unlikely given negative BAL and clear CXR.  No pyuria supporting
   urinary tract infection.
   - started PCN for strep on [**2-7**] (apprec ID reccs) and d/c
d vanc
   - has completed course of levo (2/13
 [**2-10**]) for ?CAP but d/c
d flagyl
   as c. diff neg
   - TEE scheduled for today to r/o endocarditis (?new murmur on [**2-8**]
   though pt does have a history of valve surgery)
   - CT torso to r/o abscess
   - ID consult
   - weaned off norepinephrine
   - speak to podiatry about ?MRI foot in context of same organism
   isolated as from blood and ? osteomyelitis
   # Respiratory failure:  Intubated for lethargy and ?acidosis.
   Reintubated after self-extubated in early am [**2-7**].
   - Initial acidosis possibly metabolic as little indication of primary
   pulmonary process on BAL or imaging, still given unable to rule out
   infiltrate and quite ill at presentation are completing a five day
   course of levofloxacin for CAP today.  Patient maintaining oxygenation
   and ventilation adequately on pressure support but more tachypnic after
   put on SBT.  Likely significant volume overload contributing to
   respiratory distress
   -Given marginal BP
s will attempt to continue diuresis today with
   furosemide drip aiming for UOP to get 1-1.5 L negative today if BP will
   tolerate (keep SBP
s >60)
   -S/p five day course of levofloxacin for CAP
   -SBT this PM and attempt extubation if ABG stable
   # Wide complex rhythm
 cardiology service consulted and determined that
   patient is a sensed and V paced.  Persistent tachycardia most likely
   due to infection, intermittent fever, and some degree of continued
   intravascular fluid depletion (despite total body volume overload).
   # Diabetes
 Patient had anion gap ketoacidosis on presentation in the
   setting of sepsis.  Gap has closed.  Patient put on standing insulin
   last PM for chronic hyperglycemia.
   - continue ISS and standing insulin, follow fingersticks and titrate as
   needed
   # Thrombocytopenia
 Likely secondary to sepsis and resolved as of
   [**2201-2-10**].  DIC labs neg [**2-6**].
   -Continue to follow
   - restart hep sc
   # FEN:  NPO (pulled out enteral feeding tube), hopefully can extubate
   and advance diet, if unable to wean will need new enteral tube
   # Access: R sided CVL (could potentially be pulled if extubated), PIV
   # PPx:  p-boots, PPI, hep sc
   # Code:  full
   # Dispo:  pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Arterial Line - [**2201-2-7**] 07:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-02-11 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 53 year old male with a history of type II DM, CAD s/p
   CABG who presents with sepsis.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2201-2-10**] 03:46 PM
 FEVER - 101.6
F - [**2201-2-10**] 12:00 PM
   -attempted SBT in a.m. but became tachypnic to 40 so put back on PS
   -Got TEE that showed vegetations on aortic valve, ICD leads (large one
   on wire in right atrium), IVC, and possible aortic root abscess.  No
   mitral vegetation.
   -ID: prognosis of grp B strep endocarditits very poor. will definitely
   need ICD wires removed. Add gent for synergy (done).
   -EP consulted: didn't see pt yet but agree needs leads out
   -CT [**Doctor First Name **] consulted: want patient's old ECHO images, op reports.
   -CT: pleural effusions, aortic root hypodensity, no liver abscesses.
   -Head CT: no acute process
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2201-2-9**] 03:12 AM
   Gentamicin - [**2201-2-11**] 01:45 AM
   Penicillin G potassium - [**2201-2-11**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-10**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2201-2-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-11**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 92 (77 - 101) bpm
   BP: 110/60(78) {90/46(60) - 131/71(92)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 116.2 kg (admission): 115.4 kg
   Height: 72 Inch
    CVP: 9 (2 - 21)mmHg
   Total In:
                                                                  3,007 mL
                                                                    573 mL
   PO:
   TF:
                                                                    248 mL
                                                                    301 mL
   IVF:
                                                                  1,709 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    560 mL
   Urine:
                                                                  1,460 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,547 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Set): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 108
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.49/37/78.[**Numeric Identifier 274**]/28/4
   Ve: 10.5 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   8.9 g/dL
   209 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   22 mg/dL
   111 mEq/L
   144 mEq/L
   27.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2201-2-8**]  10:18 AM
                             [**2201-2-9**]  03:49 AM
                             [**2201-2-9**]  04:21 AM
                             [**2201-2-9**]  09:00 AM
                             [**2201-2-10**]  04:30 AM
                             [**2201-2-10**]  08:14 AM
                             [**2201-2-10**]  09:15 AM
                             [**2201-2-11**]  04:10 AM
                             [**2201-2-11**]  04:25 AM
                             [**2201-2-11**]  06:03 AM
   WBC
   8.4
   10.7
   8.5
   Hct
   29.3
   29.0
   27.2
   Plt
   105
   189
   210
   Cr
   1.3
   1.4
   1.2
   TCO2
   23
   25
   25
   27
   27
   29
   29
   Glucose
   256
   76
   209
   Other labs: PT / PTT / INR:15.2/24.7/1.3, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:13.8 %, Mono:3.1 %,
   Eos:1.4 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   53 year old male with a history of type II DM, CAD s/p CABG who
   presents with sepsis.
   # Sepsis:  On admission, patient met SIRS criteria with WBC, fever, HR,
   and initial PaCO2.    Original source is unclear though the  patient
   had 4/4 bottles positive for group B strep at [**Location (un) **].  The
   significance of the of this organism also being present at the site of
   the patient
s ulcers is unclear as these were probed and do not have
   deep tracks or purulence, and this could be a skin organism.  Also has
   a history of pulling his own tooth and swallowing the tooth two days
   prior to admission.  TEE on [**2201-2-10**] demonstrated diffuse endocarditis
   involving ICD wires, aortic valve, right atrium.  Pneumonia also
   unlikely given negative BAL and clear CXR.  No pyuria supporting
   urinary tract infection.
   - cont PCN (day 1=[**2-7**]) and gentamicin (day 1=[**2-10**]) per ID reccs
   (appreciate consult).
   - has completed course of levo (2/13
 [**2-10**]) for ?CAP but d/c
d flagyl
   as c. diff neg
   - Cardiothoracic surgery following
 will attempt to acquire operative
   notes from CABG, AVR; prior ECHOs; cath reports
   - OH Surgeon per report is Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4176**] [**Telephone/Fax (1) 4177**]; cardiologist
   is Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 4178**].  Communicated with Dr. [**Last Name (STitle) 4176**] on [**2-10**]
   and Dr. [**Last Name (STitle) **]
s office ([**Doctor First Name **]) on [**2-11**].
   - f/u CT torso and head (no clear abscess on prelim reads)
   - f/u ID reccs
   - weaned off norepinephrine
   - will defer MRI of foot (wound also grew beta hemolytic strep B) but
   f/u with podiatry regarding indications for MRI to r/o osteomyelitis
   # Respiratory failure:  Intubated for lethargy and ?acidosis.
   Reintubated after self-extubated in early am [**2-7**].
   - Initial acidosis possibly metabolic as little indication of primary
   pulmonary process on BAL or imaging, still given unable to rule out
   infiltrate and quite ill at presentation are completing a five day
   course of levofloxacin for CAP today.  Patient maintaining oxygenation
   and ventilation adequately on pressure support but more tachypnic after
   put on SBT.  Likely significant volume overload contributing to
   respiratory distress.  Given likely need for operation and continued
   lethargy, will not attempt to aggressively extubate today.
   -Given marginal BP
s will defer diuresis today.  Had previously been on
   furosemide drip.
   -S/p five day course of levofloxacin for CAP
   # Wide complex rhythm
 cardiology service consulted and determined that
   patient is a sensed and V paced.  Persistent tachycardia most likely
   due to infection, intermittent fever, and some degree of continued
   intravascular fluid depletion (despite total body volume overload).
   # Diabetes
 Patient had anion gap ketoacidosis on presentation in the
   setting of sepsis.  Gap has closed.  Patient initially put on insulin
   gtt and converted to ISS but had significant hyperglycemia so
   restarting insulin gtt today
   - continue insulin gtt
   # Thrombocytopenia
 Likely secondary to sepsis and resolved as of
   [**2201-2-10**].  DIC labs neg [**2-6**].
   -Continue to follow
   - restart hep sc
   # FEN:  NPO (pulled out enteral feeding tube), hopefully can extubate
   and advance diet, if unable to wean will need new enteral tube
   # Access: R sided CVL (could potentially be pulled if extubated), PIV
   # PPx:  p-boots, PPI, hep sc
   # Code:  full
   # Dispo:  pending improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2201-2-10**] 08:25 PM 40 mL/hour.  Will hold,
   however, given possibility of surgery.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Arterial Line - [**2201-2-7**] 07:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU

2201-02-11 09:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2201-2-10**] 03:46 PM with vegetations on
   pacemaker leads, aortic valve and possible abscess
 FEVER - 101.6
F - [**2201-2-10**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2201-2-9**] 03:12 AM
   Gentamicin - [**2201-2-11**] 01:45 AM
   Penicillin G potassium - [**2201-2-11**] 08:08 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-11**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2201-2-11**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-11**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 91 (77 - 100) bpm
   BP: 96/50(65) {90/46(60) - 131/71(92)} mmHg
   RR: 25 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 116.2 kg (admission): 115.4 kg
   Height: 72 Inch
   CVP: 13 (2 - 21)mmHg
   Total In:
                                                                  3,007 mL
                                                                    810 mL
   PO:
   TF:
                                                                    248 mL
                                                                    370 mL
   IVF:
                                                                  1,709 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    680 mL
   Urine:
                                                                  1,460 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,547 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Set): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 108
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.49/37/78.[**Numeric Identifier 274**]/28/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   210 K/uL
   209 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   22 mg/dL
   111 mEq/L
   144 mEq/L
   27.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2201-2-8**]  10:18 AM
                             [**2201-2-9**]  03:49 AM
                             [**2201-2-9**]  04:21 AM
                             [**2201-2-9**]  09:00 AM
                             [**2201-2-10**]  04:30 AM
                             [**2201-2-10**]  08:14 AM
                             [**2201-2-10**]  09:15 AM
                             [**2201-2-11**]  04:10 AM
                             [**2201-2-11**]  04:25 AM
                             [**2201-2-11**]  06:03 AM
   WBC
   8.4
   10.7
   8.5
   Hct
   29.3
   29.0
   27.2
   Plt
   105
   189
   210
   Cr
   1.3
   1.4
   1.2
   TCO2
   23
   25
   25
   27
   27
   29
   29
   Glucose
   256
   76
   209
   Other labs: PT / PTT / INR:15.2/24.7/1.3, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:13.8 %, Mono:3.1 %,
   Eos:1.4 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   RADS: CXR: Unchanged from previous; CT
 Small R pleural effusion
   extending into the fissure, Bibasilar consolidative atelectasis R>L,
   increased volume
   MICRO: No new micro data.
   Assessment and Plan
   53 y/o M with CAD, DM2, [**Hospital **] transferred from OSH with septic shock,
   wide complex VT, DKA, thrombocytopenia.  Growing Group B strep in blood
   and found to have florid endocarditis with vegs on aortic valve, pacer
   wire, and with concerns for abscess of homograft.  Off levophed
   intubated.
    # Sepsis
 Group B strep in blood culture from OSH causing
   endocarditis, which has a high mortality rate.  Unclear source, but now
   wound cultures growing group B strep/corynebacterium.  Other sources
   include oral source (patient pulled out loose tooth a few days PTA).
   Now off levophed.
   - Continue PCN + gent.
   - Finish 10 day course of levo for possible CAP
   - Continue to follow cultures
   - S/p pan CT scan to eval for embolic phenomenon
 follow-up final read
   - Cards/ EP/ CT [**Doctor First Name **] following
   - Obtain records from OSH regarding cardiac surgery history
   - Transfer to CCU as decsions regarding surgery to be assessed after
   review of scans/ TEE and old surgical repair notes
   #Persistent Fevers
 Possibly due to endocarditis, but other
   abscess/fluid collection from septic emboli cannot be r/o.
   - CT scan as above
   - ID following
   # Respiratory - Intubated for lethargy and acidosis.  Now remains
   intubated given cardiac issues.  Failed SBT.
   - Continue PS until cardiac plan established
   #DKA: Now resolved.
   - Continue insulin gtt
   Other issues per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2201-2-10**] 08:25 PM 40 mL/hour
 NPO until decision
   regarding procedure made.
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Arterial Line - [**2201-2-7**] 07:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To CCU
   Total time spent: 45 minutes
   Patient is critically ill

2201-02-12 06:30:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: transfer for endocarditis
   24 Hour Events:
   patient admitted to the CCU. please see admission note for details.
   - CT surgery recs were catherization, dental and carotid ultrasound do
   not plan to operate anytime soon
   - placed order for portable panorex which apparently is not possible,
   will need to find out from surgery whether or not this test is actually
   required for emergent surgery
   - EP saw patient yesterday and note recommendations include: Continue
   aggressive antibiotic therapy per ID, Will await CT surgical evaluation
   re: possibility of re-operation, as his lead/device extraction can
   occur simultaneously if this were to happen, If no surgery planned in
   near future, we will arrange for possible lead extraction.
   - had some blood tinged NG tube contents, so changed PPI to IV BID
   - given continuing to fall crit ordered one unit of blood
   - kept patient NPO without tube feeds in case of procedure today
   - Persistent low grade fever
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2201-2-12**] 02:00 AM
   Penicillin G potassium - [**2201-2-12**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-2-11**] 11:55 PM
   Pantoprazole (Protonix) - [**2201-2-12**] 05:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to asses
   Flowsheet Data as of  [**2201-2-12**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 86 (83 - 94) bpm
   BP: 94/50(65) {89/46(60) - 110/61(78)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 116.2 kg (admission): 115.4 kg
   Height: 72 Inch
    CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  1,529 mL
                                                                    277 mL
   PO:
   TF:
                                                                    400 mL
   IVF:
                                                                    969 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,471 mL
                                                                    310 mL
   Urine:
                                                                  1,471 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     58 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 407) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.43/50/99.[**Numeric Identifier 8**]/32/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 SEM at USB, no
   diastolic murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, dressing in place with
   mulitpodous boots
   Skin:  Warm
   Neurologic: Follows simple commands, moves all 4 extremities
   Labs / Radiology
   248 K/uL
   8.2 g/dL
   81 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.2 mEq/L
   21 mg/dL
   111 mEq/L
   145 mEq/L
   24.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2201-2-10**]  04:30 AM
                             [**2201-2-10**]  08:14 AM
                             [**2201-2-10**]  09:15 AM
                             [**2201-2-11**]  04:10 AM
                             [**2201-2-11**]  04:25 AM
                             [**2201-2-11**]  06:03 AM
                             [**2201-2-11**]  04:47 PM
                             [**2201-2-11**]  05:09 PM
                             [**2201-2-12**]  04:10 AM
                             [**2201-2-12**]  04:32 AM
   WBC
   10.7
   8.5
   8.7
   Hct
   29.0
   27.2
   24.4
   Plt
   189
   210
   248
   Cr
   1.4
   1.2
   1.3
   1.3
   TCO2
   27
   27
   29
   29
   33
   34
   Glucose
   76
   209
   59
   81
   Other labs: PT / PTT / INR:14.9/28.1/1.3, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:13/18, Alk Phos / T Bili:79/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:13.8 %, Mono:3.1 %,
   Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   The patient is a 53 year-old male with a history of type II diabetes
   mellitus, Aortic Root Replacement with aortic homograft [**9-28**], and AVR
   with abscess repair at aortic root [**3-29**], CHB s/p PPM, now with Group B
   Strep Endocarditis.
   .
   # Group B Strep Endocarditis -  The pt. has an apparent prosthetic
   device related endocarditis. Unclear [**Name2 (NI) 4182**] of entry at this time,
   likely source foot ulcers. Blood cultures NGTD here however OSH Cx with
   GBS. TEE shows significant aortic graft and pacer lead involvement.
   Given organism and presence of prosthetic material, likelihood of cure
   with medical management alone is felt to be low. CT surgery and EP
   consult placed. The pt has a pacer placed due to CHB, would need temp
   wire. Currently on Penicillin and gentamicin
   - ID, EP, and CT surgery following. Appreciate input.  Will clarify
   surgical plan with CT [**Doctor First Name **] and EP.
   - Per CT [**Doctor First Name **] recs: Cath, panorex, and carotid US.  Carotid US done.
   Will attempt to obtain oral cavity imaging
 d/w dental.  However need
   to rule out other sources of infection prior to going ahead with
   surgery.
   - CT head on [**2-10**] showed no acute process or abscesses
   - CT torso on [**2-10**] showed no abscesses but mediastinal LAD and
   periarotic abscess consistent with endocarditis above
   - f/u surveillence cultures, obtain final MICs on OSH GBS isolate  -
   very sensitive to PCN.
   - Persistent low grade fevers
   - ESR 77 on [**2-7**]
   - Continue penicillin 4 million units Q 4hrs and gentamicin for
   synergy.
   - Briefly discussed initiation of heparin for anticoagulation.  Will
   hold for now.
   .
   # Respiratory Failure - Pt was intubated for lethargy on admission. He
   was reintubated after self-extubation on [**2-7**]. Currently on PSV with
   PEEP 5, FIO2 30%, reported tachypnea during SBT. Team had started
   diuresis with lasix gtt but DC'd due to hypotension. CXR with unchanged
   opacification of the left base consistent with lower lobe
   consolidation
   - Continue PSV
   - Will hold on lasix gtt for now given marginal BP, goal even.  Appears
   euvolemic.
   - CT scan reports small effusion with bibasilar atelectasis
   - Will discuss with [**Hospital Unit Name 10**] regarding prior barriers to extubation.
   - ? collapsed lung on CXR/CT scan with air trapping.  Will discuss with
   pulmonary today - ? bronch
   .
   # Anemia - HCT 24 today trending down from 37 on admission, unclear
   baseline.
   - Follow up hemolysis labs. Could be due to direct toxicity of the
   infection, mechanical hemolysis from vegetation, or drug toxicity.
   - Guaiac all stools.  Negative x 1.  NG tube output is green, no
   visible blood.  Mucus without blood.
   - Checking iron studies. Expect anemia of inflammation but may also be
   def in iron and or B12 which
   - Transfusing 1U pRBC today ([**2201-2-12**]).  f/u PM hct.
   .
   # Diabetes Mellitus Type 2 - Currently on insulin gtt for tight
   glycemic control in setting of sepsis
   - Continue gtt for now with Q1hr fingersticks.  Range is 80-120 for
   blood glucose.   Closely monitor when restart tube feeds today.
   .
   # Septic Shock
 Shock resolved.  The patient has been off pressors
   since [**2-9**], source of sepsis Group B strep bacteremia. Pt initially on
   broad spectrum antibiotics now tailored as above. Also completed 5 day
   course of levaquin for possible CAP [**Date range (1) 4183**]. Was on empiric flagyl
   for C.diff but discontinued today after negative testing.
   - Currently HD stable off pressors, continue invasive BP monitoring
   with goal MAP>65
   - Continue penicillin and gentamicin per ID recs
   - Lactate normalized, WBC falling, and screening BCx negative so far
   .
   # B/L Foot Ulcers - podiatry reports mild serosanginous drainage on R
   and no drainage on left, tracks to soft tissue with no probe to bone.
   b/l xray negative for osteomyelitis
   - given GBS+ swabs from feet and bacteremia, necessitates need for
   further evaluation to rule out osteomyelitis
   - Unable to obtain MRI given pacer placement, consider bone scan for
   further evaluation.  Impt to rule out infection prior to OR.
   .
   # Vpacing - EP eval while in [**Name (NI) 10**] - pt is A sensed and V paced,
   tachycardia most likely secondary to fever, underlying infection and
   intravascular depletion
   - treat underlying factors as above and continue to monitor
   .
   # Thrombocytopenia - Plt down to 50 on admission, now improved, most
   likely secondary to sepsis. DIC labs negative on [**2-6**]
   - Continue to monitor
   .
   # FEN - NPO, pt pulled NGT - will replace and restart TF today.  No
   procedures today.
   .
   # Access - R IJ and A line
   .
   # PPX - Heparin SC, PPI [**Hospital1 **]
   .
   # Code - Full
   .
   # Dispo - Pending clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Arterial Line - [**2201-2-7**] 07:39 PM
   20 Gauge - [**2201-2-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   intubated with endocarditis and respiratory failure
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   ??bronch today
   Total time spent on patient care: 45 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2201-2-12**]
   09:26 ------

2201-02-13 06:18:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Pulm CSed re: colapsed RLL. Advised positive pressure ventilation and
   weaning sedation
   - Dental consulted but did not see Pt. Will need reconsult
   - Hemolysis labs neg. Seems like anemia of inflammation
   - Continued with gent + PCN
   - Continued insulin drip
   - 11pm lytes with mild hypernatremia
   - Startied on diamox for alkalosis
   - Self extubated and did well on facemask
   - D/W OSH surgeon. Plan to hold off on surgery for now and treat with
   ABx until stabilized. Will then go to valve replacement electively.
   Will likely pull pacer earlier and place temporary pacer
   - S&S pending
   - Held off on imaging acutely. Will bone scan Friday.
   - Bicarb 33 in the AM and ABG without alkalosis so stopped Diamox.
 EKG - At [**2201-2-12**] 08:00 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2201-2-12**] 05:15 PM
   pt self extubated; vocalizing and coughing.
 INVASIVE VENTILATION - STOP [**2201-2-12**] 05:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2201-2-13**] 12:00 AM
   Gentamicin - [**2201-2-13**] 02:10 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-12**] 04:22 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-13**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 89 (81 - 98) bpm
   BP: 101/48(63) {93/48(63) - 138/70(95)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 116.2 kg (admission): 115.4 kg
   Height: 72 Inch
    CVP: 7 (2 - 20)mmHg
   Total In:
                                                                  1,655 mL
                                                                    284 mL
   PO:
                                                                    120 mL
   TF:
                                                                      4 mL
   IVF:
                                                                  1,122 mL
                                                                    284 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,785 mL
                                                                    630 mL
   Urine:
                                                                  2,785 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,130 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 637 (334 - 637) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.44/33/137/31/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat:
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 SEM at USB, no
   diastolic murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, dressing in place with
   mulitpodous boots
   Skin:  Warm
   Neurologic: Follows simple commands, moves all 4 extremities
   Labs / Radiology
   278 K/uL
   8.6 g/dL
   73 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   20 mg/dL
   110 mEq/L
   143 mEq/L
   25.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2201-2-11**]  04:47 PM
                             [**2201-2-11**]  05:09 PM
                             [**2201-2-12**]  04:10 AM
                             [**2201-2-12**]  04:32 AM
                             [**2201-2-12**]  05:23 PM
                             [**2201-2-12**]  05:27 PM
                             [**2201-2-12**]  09:09 PM
                             [**2201-2-12**]  09:15 PM
                             [**2201-2-13**]  03:11 AM
                             [**2201-2-13**]  04:27 AM
   WBC
   8.7
   11.2
   Hct
   24.4
   28.8
   25.3
   Plt
   248
   278
   Cr
   1.3
   1.3
   1.4
   1.4
   1.4
   TCO2
   33
   34
   34
   23
   Glucose
   59
   81
   111
   89
   73
   Other labs: PT / PTT / INR:14.8/27.1/1.3, CK / CKMB /
   Troponin-T:15/2/<0.01, ALT / AST:[**8-8**], Alk Phos / T Bili:45/0.7,
   Differential-Neuts:81.5 %, Band:0.0 %, Lymph:13.8 %, Mono:3.1 %,
   Eos:1.4 %, Lactic Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:214 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   The patient is a 53 year-old male with a history of type II diabetes
   mellitus, Aortic Root Replacement with aortic homograft [**9-28**], and AVR
   with abscess repair at aortic root [**3-29**], CHB s/p PPM, now with Group B
   Strep Endocarditis.
   .
   # Group B Strep Endocarditis -  The pt. has an apparent prosthetic
   device related endocarditis. Unclear [**Name2 (NI) 4182**] of entry at this time,
   likely source foot ulcers. Blood cultures NGTD here however OSH Cx with
   GBS. TEE shows significant aortic graft and pacer lead involvement.
   Given organism and presence of prosthetic material, likelihood of cure
   with medical management alone is felt to be low. CT surgery and EP
   consult placed. The pt has a pacer placed due to CHB, would need temp
   wire. Currently on Penicillin and gentamicin
   - ID, EP, and CT surgery following. Appreciate input.  Will clarify
   surgical plan with CT [**Doctor First Name **] and EP.
   - Per CT [**Doctor First Name **] recs: Cath, panorex, and carotid US.  Carotid US done.
   Will attempt to obtain oral cavity imaging
 d/w dental.  However need
   to rule out other sources of infection prior to going ahead with
   surgery.
   - CT head on [**2-10**] showed no acute process or abscesses
   - CT torso on [**2-10**] showed no abscesses but mediastinal LAD and
   periarotic abscess consistent with endocarditis above
   - f/u surveillence cultures, obtain final MICs on OSH GBS isolate  -
   very sensitive to PCN.
   - Persistent low grade fevers
   - ESR 77 on [**2-7**]
   - Continue penicillin 4 million units Q 4hrs and gentamicin for
   synergy.
   - Briefly discussed initiation of heparin for anticoagulation.  Will
   hold for now.
   - Bone scan today for osteo
   .
   # Respiratory Failure - Pt was intubated for lethargy on admission. He
   was reintubated after self-extubation on [**2-7**]. Currently on PSV with
   PEEP 5, FIO2 30%, reported tachypnea during SBT. Team had started
   diuresis with lasix gtt but DC'd due to hypotension. CXR with unchanged
   opacification of the left base consistent with lower lobe
   consolidation
   - Self extubated and doing well now.
   - Will hold on lasix gtt for now given marginal BP, goal even.  Appears
   euvolemic.
   - CT scan reports small effusion with bibasilar atelectasis
   - Will discuss with [**Hospital Unit Name 10**] regarding prior barriers to extubation.
   - ? collapsed lung on CXR/CT scan with air trapping.  Will continue to
   follow as pt now extubated and comfortable
   .
   # Anemia - HCT trending down from 37 on admission, unclear baseline.
   Bumped appropriately to 28.8 from 24 with 1U pRBC but continues to
   trend down.
   - No signs of hemolysis. Retics low and ferritin very elevated
   consistent with anemia of inflammation. Could also be due to direct
   toxicity of the infection, mechanical hemolysis from vegetation, or
   drug toxicity.
   - Guaiac all stools.  Negative x 1.  NG tube output is green, no
   visible blood.  Mucus without blood.
   .
   # Diabetes Mellitus Type 2 - Currently on insulin gtt for tight
   glycemic control in setting of sepsis
   - Continue gtt for now with Q1hr fingersticks.  Range is 80-120 for
   blood glucose.   Closely monitor when restart tube feeds today.
   .
   # Septic Shock
 Shock resolved.  The patient has been off pressors
   since [**2-9**], source of sepsis Group B strep bacteremia. Pt initially on
   broad spectrum antibiotics now tailored as above. Also completed 5 day
   course of levaquin for possible CAP [**Date range (1) 4183**]. Was on empiric flagyl
   for C.diff but discontinued today after negative testing.
   - Currently HD stable off pressors, continue invasive BP monitoring
   with goal MAP>65
   - Continue penicillin and gentamicin per ID recs
   - Lactate normalized, WBC falling, and screening BCx negative so far
   .
   # B/L Foot Ulcers - podiatry reports mild serosanginous drainage on R
   and no drainage on left, tracks to soft tissue with no probe to bone.
   b/l xray negative for osteomyelitis
   - given GBS+ swabs from feet and bacteremia, necessitates need for
   further evaluation to rule out osteomyelitis
   - Unable to obtain MRI given pacer placement, consider bone scan for
   further evaluation.  Impt to rule out infection prior to OR.
   .
   # Vpacing - EP eval while in [**Name (NI) 10**] - pt is A sensed and V paced,
   tachycardia most likely secondary to fever, underlying infection and
   intravascular depletion
   - treat underlying factors as above and continue to monitor
   .
   # Thrombocytopenia - Plt down to 50 on admission, now improved, most
   likely secondary to sepsis. DIC labs negative on [**2-6**]
   - Continue to monitor
   .
   # FEN - NPO, pt pulled NGT - will replace and restart TF today.  No
   procedures today.
   .
   # Access - R IJ and A line
   .
   # PPX - Heparin SC, PPI [**Hospital1 **]
   .
   # Code - Full
   .
   # Dispo - Pending clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-2-6**] 03:45 PM
   Arterial Line - [**2201-2-7**] 07:39 PM
   20 Gauge - [**2201-2-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: